US06479490B2
Methyl 3-((R)-2,2-dimethyl-1,3-dioxolan-4-ylmethyloxy)-2-methylbenzoate (4.2 g, 15 mmol) was dissolved in 20 mL of methanol and 1 mL of water. To the above solution was added lithium hydroxide (2.4 g, Seq.). After stirring the reaction mixture at room temperature for 4 h, the volatile was removed under vacuo and the residue was partitioned between EtOAc and H2O. The aqueous layer was separated, cooled with an ice bath, and then acidified with 10% aq. HCl. The acidic aqueous layer was extracted with EtOAc. The EtOAc layer was washed with NaCl (sat.), dried over Na2SO4, and concentrated to give 3-((R)-2,2-dimethyl-1,3-dioxolan-4-ylmethyloxy)benzoic acid as a white solid (4 g).

reactant | Methyl 3-((R)-2,2-dimethyl-1,3-dioxolan-4-ylmethyloxy)-2-methylbenzoate | 15 mmol, 4.2 g | CC1(OC[C@H](O1)COC=1C(=C(C(=O)OC)C=CC1)C)C | C15H20O5
reactant | lithium hydroxide | 2.4 g | [OH-].[Li+]
solvent | methanol | 20 mL | CO | CH4O
solvent | water | 1 mL | O | H2O
product | 3-((R)-2,2-dimethyl-1,3-dioxolan-4-ylmethyloxy)benzoic acid | 4 g | CC1(OC[C@H](O1)COC=1C=C(C(=O)O)C=CC1)C | C13H16O5
